US04179511
6-(2-[2-Bromoacetamido]-2-phenylacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam
To a stirred slurry of 4.27 g. (10 mmole) of 6-(2-amino-2amino-2-phenylacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam in 25 ml. of water, at 0° C., is added 1.39 g. (10 mmole) of bromoacetic acid in 6 ml. of water. The pH is adjusted to 6.0, and then 1.9 g. (10 mmole) of 1-ethyl-3-(dimethylaminopropyl)carbodimide hydrochloride in 9 ml. of water is added. The mixture is stirred for 3 hours at pH 6. At this point, the pH is raised to 7.0, and the reaction mixture is washed with ethyl acetate. The pH is then lowered to 2.0, and the product is extracted into ethyl acetate. The dried extracts are concentrated to dryness in vacuo to give 2.0 g. (40% yield) of the title compound, m.p. 128°-135° C. IR (KBr disc): 1800 cm-1 (β-lactam) and 1653 cm-1 (amide I). NMR (in DMSO-d6 /D2O): 7.43 ppm (s,5H), 5.73 ppm (s,1H), 5.63 ppm (m,2H), 5.23 ppm (s,1H), 4.02 ppm (s,2H), 160 ppm (s,3H), 1.00 ppm (s,3H).

reactant | 6-(2-amino-2amino-2-phenylacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | 10 mmole | NC(C(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O)(C1=CC=CC=C1)N | C16H20N8O2S
reactant | bromoacetic acid | 10 mmole | BrCC(=O)O | C2H3BrO2
reactant | 1-ethyl-3-(dimethylaminopropyl)carbodimide hydrochloride | 10 mmole | Cl.C(C)N=C=NCCCN(C)C
solvent | water | O | H2O
product | 6-(2-[2-Bromoacetamido]-2-phenylacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | 40% yield | BrCC(=O)NC(C(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O)C1=CC=CC=C1 | C18H20BrN7O3S
